US04388317
Reaction 4-(3-methylpyridyl)butylamine with 2-nitroamino-5-(5-dimethylaminomethyl-3-pyridylmethyl)-4-pyrimidone gives 2-[4-(3-methylpyridyl)butylamino]-5-(5-dimethylaminomethyl-3-pyridylmethyl)-4-pyrimidone.

reactant | 4-(3-methylpyridyl)butylamine | CC=1C(=NC=CC1)CCCCN | C10H16N2
reactant | 2-nitroamino-5-(5-dimethylaminomethyl-3-pyridylmethyl)-4-pyrimidone | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC=1C=NC=C(C1)CN(C)C | C13H16N6O3
product | 2-[4-(3-methylpyridyl)butylamino]-5-(5-dimethylaminomethyl-3-pyridylmethyl)-4-pyrimidone | CC=1C(=NC=CC1)CCCCNC1=NC=C(C(N1)=O)CC=1C=NC=C(C1)CN(C)C | C23H30N6O
